Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L leg pain, cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: Mr. ___ is a ___ male with history of
pituitary adenoma on hCG presenting with hemoptysis and leg 
pain.

The patient reports that he was in his usual state of health
until ___, when he developed a dry cough and fevers to 104. No
chest pain, palpitations, or shortness of breath. No hemoptysis
at that time. He presented to Urgent Care for evaluation and had
a CXR at that time that was negative for pneumonia and he was
discharge home. He subsequent developed scant hemoptysis, ___
episodes per day. After 4 days, he defervesced.

He subsequently travelled to ___ for business, returning
one day prior to admission. Upon getting off the 10-hour flight
he noted that he had a pain and tightness in his left shin and
calf. No edema. He presented to his PCP's office, where a 
D-dimer
was obtained and was 1457. Given this, he was referred to the 
ED.

In the ED, vitals: 98.5 90 142/83 17 99% RA  
Exam: Pulm: CTAB, Nonlabored respirations. 
Labs notable for: CBC, BMP wnl
Imaging: Left ___ with DVT; CTA negative
Patient given: 1L LR, ceftriaxone 1 gm, azithromycin 500 mg;
heparin gtt

On arrival to the floor, the patient reports he feels well and
has no acute complaints.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Central Hypogonadism (on HCG)
Rathke's Cleft Cyst
 
Social History:
___
Family History:
Father recently diseased from "blood clots" and
stroke.
 
Physical Exam:
ADMISSION:
==========
VITALS: 98.5 115/72 56 18 96 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; left calf symmetric with
right, no tenderness or edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE:
===========
24 HR Data (last updated ___ @ 809)
Temp: 97.9 (Tm 98.2), BP: 108/70 (108-122/70-72), HR: 74 
(60-74),
RR: 16 (___), O2 sat: 98% (97-98), O2 delivery: RA  
GENERAL: NAD, lying comfortably in bed
EYES: PERRL, anicteric sclerae
ENT: OP clear
NODES: No cervical, clavicular, axillary, inguinal LAD
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
MSK: Lower ext warm without appreciable edema; no significant 
TTP
L gastrocnemius 
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION:
==========
___ 07:15PM BLOOD WBC-9.5 RBC-5.06 Hgb-14.9 Hct-44.1 MCV-87 
MCH-29.4 MCHC-33.8 RDW-12.8 RDWSD-40.2 Plt ___
___ 07:15PM BLOOD ___ PTT-26.2 ___
___ 07:15PM BLOOD Glucose-119* UreaN-9 Creat-0.8 Na-141 
K-4.6 Cl-105 HCO3-23 AnGap-13
___ 07:15PM BLOOD cTropnT-<0.01 proBNP-42
___ 07:15PM BLOOD Calcium-9.6 Phos-3.5 Mg-2.2
___ 05:15PM BLOOD HIV Ab-NEG
___ 07:21PM BLOOD Lactate-1.4

DISCHARGE:
===========
___ 07:15AM BLOOD WBC-8.1 RBC-5.12 Hgb-15.1 Hct-45.1 MCV-88 
MCH-29.5 MCHC-33.5 RDW-12.9 RDWSD-41.8 Plt ___
___ 07:15AM BLOOD ___
___ 07:15AM BLOOD Glucose-99 UreaN-9 Creat-1.0 Na-141 K-4.9 
Cl-104 HCO3-24 AnGap-13

CBC WNL
BMP WNL
Ca/Mg/Phos WNL
INR 1.4
HIV neg

Other notable:
Trop<0.01, BNP 42
Lact 1.4

Strep pneumo Ag: pending
Legionella Ag: negative

IMAGING:
========
EKG (___):
NSR at 80 bpm, nl asix, PR 161, QRS 104, QTC 438, TWI III, no
ischemic ST changes

CTA chest (___):
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Focal area of hypoattenuation within the right lower lobe
concerning for pneumonia. 
3. Mild airway wall thickening suggestive of mild bronchitis. 
4. Bilateral lower lobe pulmonary nodules measuring up to 3 mm. 
Please see recommendations below. 
RECOMMENDATION(S):  For incidentally detected multiple solid
pulmonary nodules smaller than 6mm, no CT follow-up is
recommended in a low-risk patient, and an optional CT follow-up
in 12 months is recommended in a high-risk patient 

L ___ (___):
Nonocclusive deep venous thrombosis in the anterior left
posterior tibial vein. 
 
Brief Hospital Course:
___ male with history of central hypogonadism (on HCG) 
and Rathke's cleft cyst presenting with cough/hemoptysis and L 
leg pain, found to have community-acquired RLL pneumonia and LLE 
DVT.

# Dyspnea on exertion:
# Cough:
# Scant hemoptysis:
# RLL community-acquired pneumonia: 
Patient presented with a few days of high fevers and cough 1 
week prior to admission. Fevers resolved, but mild cough with 
scant hemoptysis persisted. Outpatient CXR at time of initial 
fevers without clear evidence of pneumonia. CTA chest this 
admission showed no e/o of PE but did demonstrate focal RLL 
opacity consistent with community-acquired PNA, likely 
explanatory. Although he is from ___ originally, TB was 
thought very unlikely in the absence of immunosuppression (HIV 
neg) or other clear risk factors and without LAD or weight loss 
(of note, his respiratory symptoms preceded his recent trip to 
___. He was treated with CTX/azithromycin in the ED, 
transitioned to levofloxacin on admission with improvement in 
his cough and dyspnea. No e/o hypoxia. Hemoptysis had resolved 
at discharge, despite initiation of therapeutic anticoagulation 
as below. He will be discharged on levofloxacin 750mg daily to 
complete a 5-day course through ___. PCP ___ scheduled for 
___.

# Provoked LLE DVT: 
P/w L leg pain that developed a few hours after return flight 
from ___. Found to have nonocclusive deep venous 
thrombosis in the anterior left posterior tibial vein. CTA chest 
neg for PE. Likely provoked in setting of immobility, but 
patient reports that his father was recently diagnosed with 
extensive blood clots raising possibility of underlying 
hypercoagulable disorder. Home HCG therapy may put him at 
increased risk, as does his tobacco use. Treated initially with 
heparin gtt, transitioned to apixaban on ___ after discussion 
of the risks and benefits of therapy. Hgb remained stable 
without e/o ongoing hemoptysis with therapeutic anticoagulation. 
He will be discharged on apixaban 10mg BID x 7d (___) then 
5mg BID; would likely treat for 3 months for provoked DVT. 
Consideration of hypercoagulable w/u deferred to PCP. He was 
counseled on the importance of smoking cessation.

# Central hypogonadism:
# Rathke's cleft cyst: 
Followed by Dr. ___ at ___. On HCG 2500u 2x/week. ___ 
increase risk for VTE as above. Would recommend addressing with 
outpatient endocrinologist.

# Pulmonary nodules:
3 mm nodules seen on CT chest. Low suspicion for malignancy 
given young age and social tobacco use, but likely warrants 12 
month ___ CT.

** TRANSITIONAL **
[ ] levofloxacin through ___
[ ] apixaban 10mg BID through ___, then 5mg BID thereafter; 
likely 3 month course for provoked DVT
[ ] consideration of hypercoagulable w/u deferred to PCP
[ ] consider alternative therapies to HCG if feasible given 
reports of slightly increased risk of VTE with therapy
[ ] ongoing smoking cessation counseling
[ ] ___ CT chest 12 months for pulmonary nodules

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Novarel (chorionic gonadotropin, human) 2500 units injection 
2X/WEEK 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID 
RX *apixaban [Eliquis] 5 mg (74 tabs) 10 mg by mouth twice a day 
Disp #*1 Dose Pack Refills:*0 
2.  LevoFLOXacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
3.  Novarel (chorionic gonadotropin, human) 2500 units injection 
2X/WEEK  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community-acquired pneumonia
L leg DVT
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with a pneumonia and blood 
clot in your left leg. Your pneumonia improved with antibiotics, 
which you should continue through ___ (levofloxacin). Your blood 
clot was treated with a medicine called apixaban, which you will 
need to take at a dose of 10mg twice a day until ___, after 
which you should reduce the dose to 5mg twice a day. Continue 
this medication until instructed to stop by your primary care 
doctor.

In addition, you were found to have small nodules in your lungs, 
likely to be of no importance. Please address the possibility of 
follow up imaging with your primary care doctor. 

It is critically important that you quit smoking, if possible, 
to reduce your risk of further blood clots. Please also monitor 
closely for worsening of the blood in your sputum, which - if 
evident - should prompt return to the emergency room.

With best wishes,
___ Medicine
 
Followup Instructions:
___